US05650417
Ethyl 2,6-dimethyl-4-[2-methyl-3-(4-tert-butylcyclohexyl)propylamino]nicotinate
was synthesized analogously to Example 8 using ethyl 4-chloro-2,6-dimethylnicotinate and 2-methyl-3-(4-tert-butylcyclohexyl)propylamine nD23 :1.4738.

reactant | ethyl 4-chloro-2,6-dimethylnicotinate | ClC1=CC(=NC(=C1C(=O)OCC)C)C | C10H12ClNO2
reactant | 2-methyl-3-(4-tert-butylcyclohexyl)propylamine | CC(CN)CC1CCC(CC1)C(C)(C)C | C14H29N
product | Ethyl 2,6-dimethyl-4-[2-methyl-3-(4-tert-butylcyclohexyl)propylamino]nicotinate | CC1=C(C(=O)OCC)C(=CC(=N1)C)NCC(CC1CCC(CC1)C(C)(C)C)C | C24H40N2O2
